US05686469
1-[2-(S)-(Benzoylamino)-4-methylpentyl]-L-proline 4-Phenylbutylamide
Using the procedure described in Example 7, treatment of 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide (20 mg) with benzoyl chloride (10 uL) provided 10 mg (39%) of the title compound. The 1H NMR and Mass spectrum analysis of this compound was consistent with the structure.

reactant | 1-[2-(S)-amino-4-methylpentyl]-L-proline 4-phenylbutylamide | 20 mg | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)N)=O | C21H35N3O
reactant | benzoyl chloride | 10 uL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 1-[2-(S)-(Benzoylamino)-4-methylpentyl]-L-proline 4-Phenylbutylamide | 10 mg, 39% | C1(=CC=CC=C1)CCCCNC([C@H]1N(CCC1)C[C@H](CC(C)C)NC(C1=CC=CC=C1)=O)=O | C28H39N3O2
